US04206310
To a suspended toluene (2 ml) solution of 2-chloro-1-methylpyridinium iodide (306 mg, 1.2 mmol) was added a mixture of benzyl alcohol (108 mg, 1.0 mmol), pivalic acid (102 mg, 1.0 mmol) and tri-n-butylamine (444 mg, 2.4 mmol) in toluene (2 ml), and the resulting mixture was refluxed for 3 hours. After evaporation of the solvent, the residue was separated by silica gel column chromatography, and benzyl pivalate was isolated in 62% yield.

reactant | 2-chloro-1-methylpyridinium iodide | 1.2 mmol, 306 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | benzyl alcohol | 1.0 mmol, 108 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | pivalic acid | 1.0 mmol, 102 mg | C(C(C)(C)C)(=O)O | C5H10O2
reactant | tri-n-butylamine | 2.4 mmol, 444 mg | C(CCC)N(CCCC)CCCC | C12H27N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl pivalate | 62% yield | C(C(C)(C)C)(=O)OCC1=CC=CC=C1 | C12H16O2
